US08022206B2
7-[(1S)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]furo[3,2-c]pyridin-6-amine
To a mixture of 6-nitrofuro[3,2-c]pyridin-7-ol (50.0 mg, 0.278 mmol), (R)-1-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol (110 mg, 0.555 mmol), triphenylphosphine (191 mg, 1.11 mmol) and THF (10 mL) under nitrogen at rt was added diisopropyl azodicarboxylate (0.219 mL, 1.11 mmol) dropwise. The solution was heated to 40° C. for 2 h. The solvent was removed in vacuo, and EtOH (20 mL), iron powder (200 mg, 3 mmol) and conc. HCl (8 drops) were added. The mixture was heated to 75° C. for 1 h. The material was loaded into a SCX cartridge, washed with MeOH and ejected with 2M NH3 in MeOH. The filtrate was concentrated in vacuo to afford the title compound as a dark orange solid, and was used in the next step without further purification. MS (ES+): m/z 331.04 (100) [MH+]. HPLC: tR=1.93 min (ZQ3, polar—5 min).

reactant | 6-nitrofuro[3,2-c]pyridin-7-ol | 0.278 mmol, 50.0 mg | [N+](=O)([O-])C1=C(C2=C(C=N1)C=CO2)O | C7H4N2O4
reactant | (R)-1-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol | 0.555 mmol, 110 mg | ClC=1C=CC=2N(N1)C(=NN2)[C@@H](C)O | C7H7ClN4O
reactant | triphenylphosphine | 1.11 mmol, 191 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.11 mmol, 0.219 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
catalyst | HCl | 8 drops | Cl | ClH
catalyst | iron | 3 mmol, 200 mg | [Fe] | Fe
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-[(1S)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]furo[3,2-c]pyridin-6-amine | ClC=1C=CC=2N(N1)C(=NN2)[C@H](C)OC=2C1=C(C=NC2N)C=CO1 | C14H11ClN6O2
